US07893055B2
5-(Methylthio)furan-2-carbaldehyde oxime.
To a solution of 5-(methylthio)furan-2-carbaldehyde (1.0 g, 7.04 mmol) in ethanol (10 mL) was added an aqueous solution of hydroxylamine hydrochloride (3.75M) (2.26 mL, 8.45 mmol) and an aqueous solution of sodium acetate (1.5 M) (3.78 mL, 5.63 mmol). The reaction mixture was stirred a 23° C. for 18 hours. The ethanol was concentrated in vacuo, H2O was added (50 mL) and the precipitate was filtered and dried in oven (60° C.) for 10 minutes to afford 277 mg (25%) of the title compound. LCMS (+ESI, M+H+) m/z 158.

reactant | 5-(methylthio)furan-2-carbaldehyde | 7.04 mmol, 1.0 g | CSC1=CC=C(O1)C=O | C6H6O2S
reactant | hydroxylamine hydrochloride | 8.45 mmol, 3.75M, 2.26 mL | Cl.NO
reactant | sodium acetate | 5.63 mmol, 1.5 M, 3.78 mL | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(Methylthio)furan-2-carbaldehyde oxime | 277 mg, 25% | CSC1=CC=C(O1)C=NO | C6H7NO2S
